US06331538B1
7,8-Difluoro-3,4-dihydro-2H-benzo[1,4]thiazine
A solution of 7,8-difluoro-4H-benzo[1,4]thiazin-3-one (Example L-3, 2.27 g, 11.3 mmol) in THF (100 mL) was reacted with lithium aluminumhydride (1.07 g, 28.2 mmol) under an N2 atmosphere and heated to reflux overnight. The mixture was cooled and quenched with 1.0N HCl and extracted with ethyl acetate. The organic layers were combined, dried with sodium sulfate, and concentrated to provide 2.2 g of the title compound as an oil.

reactant | 7,8-difluoro-4H-benzo[1,4]thiazin-3-one | 11.3 mmol, 2.27 g | FC1=C(C2=C(NC(CS2)=O)C=C1)F | C8H5F2NOS
reactant | lithium | [Li] | Li
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 7,8-Difluoro-3,4-dihydro-2H-benzo[1,4]thiazine | 2.2 g | FC1=C(C2=C(NCCS2)C=C1)F | C8H7F2NS
